US08106212B2
120 μl (2.04 mmol) of acetic acid and 422 mg (2.04 mmol) of 1-(5,6-dichloropyridin-3-yl)-N-methoxymethanamine (III-3) are added to 224 mg (2.24 mmol) of tetronic acid in 50 ml of toluene, and the mixture is heated under reflux on a water separator for 3 hours. The reaction mixture is concentrated under reduced pressure, the residue is taken up in ethyl acetate and the mixture is washed successively twice with 1 N aqueous hydrochloric acid, twice with 1 N aqueous sodium hydroxide solution and saturated sodium chloride solution and dried over sodium sulphate. Concentration of the organic phase under reduced pressure and purification of the residue by recrystallization from ethyl acetate gives 360 mg (59% of theory) of 4-[[(5,6-dichloropyridin-3-yl)methyl](methoxy)amino]furan-2(5H)-one.

reactant | acetic acid | 2.04 mmol, 120 μl | C(C)(=O)O | C2H4O2
reactant | 1-(5,6-dichloropyridin-3-yl)-N-methoxymethanamine | 2.04 mmol, 422 mg | ClC=1C=C(C=NC1Cl)CNOC | C7H8Cl2N2O
reactant | tetronic acid | 2.24 mmol, 224 mg | C1C(=O)COC1=O | C4H4O3
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[[(5,6-dichloropyridin-3-yl)methyl](methoxy)amino]furan-2(5H)-one | 360 mg, 59% | ClC=1C=C(C=NC1Cl)CN(C1=CC(OC1)=O)OC | C11H10Cl2N2O3
